US07291642B2
Analogously to 13b), 4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}butyramide was prepared from 0.297 g (0.654 mmol) of N-[2-(4-cyanophenyl)ethyl]4-[(2,3-dichloro-benzenesulphonyl)methylamino]butyramide, 42 mg (1.31 mmol) of sulphur and 1.8 ml of ethylenediamine.

reactant | N-[2-(4-cyanophenyl)ethyl]4-[(2,3-dichloro-benzenesulphonyl)methylamino]butyramide | 0.654 mmol, 0.297 g | C(#N)C1=CC=C(C=C1)CCNC(CCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)=O | C20H21Cl2N3O3S
reactant | sulphur | 1.31 mmol, 42 mg | [S] | S
reactant | ethylenediamine | 1.8 ml | C(CN)N | C2H8N2
product | 4-[(2,3-dichlorobenzenesulphonyl)methylamino]-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}butyramide | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCCC(=O)NCCC1=CC=C(C=C1)C=1NCCN1 | C22H26Cl2N4O3S
